US06946467B2
(2-Aminothiazol-4-yl)acetic acid (10 g, 63.2 mmol) was dissolved in 1,4-dioxane (100 mL) and aqueous NaOH (6 M, 100 mL), and the solution was cooled to 0° C. Benzyl chloroformate (20 mL, 82.2 mmol) was added, and the mixture was stirred at room temperature overnight. The mixture was diluted with diethyl ether, and the layers separated. The water layer was cooled to 0° C., and the pH adjusted to approximately 4 with aqueous HCl (6 M). The white precipitate formed was collected by vacuum filtration, washed with water and diethyl ether, and dried under vacuum to provide (2-benzyloxycarbonylaminothiazol-4-yl)acetic acid (7.5 g, 41%).

reactant | (2-Aminothiazol-4-yl)acetic acid | 63.2 mmol, 10 g | NC=1SC=C(N1)CC(=O)O | C5H6N2O2S
reactant | NaOH | 6 M, 100 mL | [OH-].[Na+]
reactant | Benzyl chloroformate | 82.2 mmol, 20 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2-benzyloxycarbonylaminothiazol-4-yl)acetic acid | 7.5 g, 41% | C(C1=CC=CC=C1)OC(=O)NC=1SC=C(N1)CC(=O)O | C13H12N2O4S
